US08809369B2
To a suspension of cyclopropanesulfonamide (610 mg, 5.0 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (200 mg, 5.0 mmol). The resulting mixture was stirred at 25° C. for 1 h to afford Solution A31. A solution of 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (350 mg, 1.0 mmol) and 1,1′-carbonyldiimidazole (320 mg, 2.0 mmol) in N,N-dimethylformamide (5 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B31. Solution B31 was added to Solution A31 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid [4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-amide (140 mg, 30%) as a white solid: MS (ESI) M+1=453.3.

reactant | cyclopropanesulfonamide | 5.0 mmol, 610 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 1.0 mmol, 350 mg | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC=C1)C(F)(F)F)C | C19H18F3NO2
reactant | 1,1′-carbonyldiimidazole | 2.0 mmol, 320 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid [4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-amide | 140 mg, 30% | CC1(CC(NC2=CC=C(C=C12)C(=O)NS(=O)(=O)C1CC1)C1=CC(=CC=C1)C(F)(F)F)C | C22H23F3N2O3S
